US05017481
Each of these crude enzyme solutions was added to a mixture of 0.1M Tris-HCl buffer (pH 7.4), 0.8 mM NADP and 4 mM shikimic acid, and shikimate dehydrogenase activity was determined by measuring the change in optical density at 300 mμ resulting from the conversion of NADH.

reactant | Tris-HCl | 0.1M, pH 7.4 | C(C(CO)(CO)N)O.Cl
reactant | NADP | 0.8 mM | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | shikimic acid | 4 mM | C1[C@H]([C@@H]([C@@H](C=C1C(=O)O)O)O)O | C7H10O5
product | NADH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
